US04070539
Step B: 4-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)-butyric Acid
By following the method of Example 12, Step B, 4-(1-oxo-2ethyl-6,7-dichloro-5-indanyloxy)butyric acid (13.24 g., 0.04 mole) is treated with sulfuryl chloride (3.6 ml., 0.044 mole) in acetic acid (100 ml.) to obtain 9.33 g. of 4-(1-oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)butyric acid, m.p. 123°-124° C. after recrystallization from ethanol.

reactant | 4-(1-oxo-2ethyl-6,7-dichloro-5-indanyloxy)butyric acid | 0.04 mole, 13.24 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCCCC(=O)O)CC | C15H16Cl2O4
reactant | sulfuryl chloride | 0.044 mole, 3.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)-butyric Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCCCC(=O)O)(Cl)CC | C15H15Cl3O4
